US09353084B2
Tert-butyl (4-fluoro-3-((2R)-3,3,5-trifluoro-2,5-dimethyl-6-oxopiperidin-2-yl)phenyl)carbamate (2.1 g, 5.38 mmol) (1:1.7 mixture of diastereomers) was placed in a round bottom flask and dissolved in toluene (60 ml) (dried over 4 Å MS). Argon was bubbled through the reaction for 10 min followed by addition of Lawesson's reagent (2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulfide) (2.18 g, 5.38 mmol). The reaction was carefully evacuated and backfilled with argon (×3). The suspension was heated to 80° C. The reaction was stirred at this temperature for 3 h 30 min. The reaction was allowed to cool to room temperature and concentrated under reduced pressure. The crude material was suspended in CHCl3 and filtered. The filtrate was concentrated under reduced pressure and the crude material was purified using a CombiFlash system (120 g SiO2, gradient elution; heptanes:ethyl acetate 100:0→80:20) to afford tert-butyl (4-fluoro-3-((2R,5S)-3,3,5-trifluoro-2,5-dimethyl-6-thioxopiperidin-2-yl)phenyl)carbamate (1.15 g, 52.6% yield) (fast eluting isomer) LC-MS (m/z) 407.4 (MH+) tR=0.83 minutes (Method B) and tert-butyl (4-fluoro-3-((2R,5R)-3,3,5-trifluoro-2,5-dimethyl-6-thioxopiperidin-2-yl)phenyl)carbamate (0.816 g (60% purity), 22.4% yield) (slow eluting isomer) LC-MS (m/z) 407.4 (MH+) tR=0.82 minutes (Method B).

reactant | Tert-butyl (4-fluoro-3-((2R)-3,3,5-trifluoro-2,5-dimethyl-6-oxopiperidin-2-yl)phenyl)carbamate | 5.38 mmol, 2.1 g | FC1=C(C=C(C=C1)NC(OC(C)(C)C)=O)[C@]1(NC(C(CC1(F)F)(C)F)=O)C | C18H22F4N2O3
reactant | Lawesson's reagent | 5.38 mmol, 2.18 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl (4-fluoro-3-((2R,5S)-3,3,5-trifluoro-2,5-dimethyl-6-thioxopiperidin-2-yl)phenyl)carbamate | 1.15 g, 52.6% yield | FC1=C(C=C(C=C1)NC(OC(C)(C)C)=O)[C@]1(NC([C@@](CC1(F)F)(C)F)=S)C | C18H22F4N2O2S
